US07476759B2
4-Amino-3-(4-bromophenyl)-4-oxobutanoic acid
A suspension of benzyl 4-amino-3-(4-bromophenyl)-4-oxobutanoate (1.14 g, 3.16 mmol) and platinum(IV) oxide (30 mg) in ethanol/ethyl acetate (5:1; 120 mL) was stirred under an hydrogen atmosphere for 2 h. After replacement of hydrogen with nitrogen the crude reaction mixture was filtered through a thin pad of celite and the filtrate evaporated to dryness to give the title compound as a white solid (671 mg, 78%). LC/MS: 2.41 min; z/e 271 and 273, calcd (M+1) 271 and 271. 1H NMR (400 MHz: DMSO-d6): 7.50 (2H), 7.25 (2H), 3.95 (1H), 2.95 (1H), 2.45 (1H).

reactant | benzyl 4-amino-3-(4-bromophenyl)-4-oxobutanoate | 3.16 mmol, 1.14 g | NC(C(CC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)Br)=O | C17H16BrNO3
solvent | ethanol ethyl acetate | 120 mL | C(C)O.C(C)(=O)OCC
catalyst | platinum(IV) oxide | 30 mg | [Pt](=O)=O
product | 4-Amino-3-(4-bromophenyl)-4-oxobutanoic acid | 671 mg, 78% | NC(C(CC(=O)O)C1=CC=C(C=C1)Br)=O | C10H10BrNO3
